US05478832
2.5 ml (34.2 mmol) of thionyl chloride were added to 1.28 g (4.88 mmol) of 2-(6-methylquinolin-2-yl)benzamide obtained in Reference Example 7 and the mixture was stirred. After heating the mixture under reflux for 3 hours, thionyl chloride was distilled off. The residue was dissolved in 100 ml of chloroform and poured into iced water. The organic layer was separated, neutralized with 150 ml of a saturated sodium bicarbonate solution, washed with a saturated sodium chloride solution and dried over magnesium sulfate followed by filtration. The resulting filtrate was concentrated and the concentrate was subjected to silica gel chromatography using a mixed solvent of hexane and ethyl acetate (10/1) to obtain 150 mg of 2-(4-chloro-6-methylquinolin-2-yl)benzonitrile.

reactant | thionyl chloride | 34.2 mmol, 2.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(6-methylquinolin-2-yl)benzamide | 4.88 mmol, 1.28 g | CC=1C=C2C=CC(=NC2=CC1)C1=C(C(=O)N)C=CC=C1 | C17H14N2O
product | 2-(4-chloro-6-methylquinolin-2-yl)benzonitrile | 150 mg | ClC1=CC(=NC2=CC=C(C=C12)C)C1=C(C#N)C=CC=C1 | C17H11ClN2
